US20010018525A1
step 4 (5′-Methoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid
The title compound was prepared as a white solid (0.099 g, 91%) from (5′-methoxy-[ 1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester using a procedure similar to step 2 of Example 36, mp 143-145 °C.; 1H NMR (DMSO-d6) δ3.65 (s, 2H), 3.80 (s, 3H), 6.89 (s, 2H), 7.33-7.39 (m, 2H), 7.39-7.45 (m, 4H), 7.57-7.61 (m, 4H), 12.40-12.46 (bs, 1H); IR (KBr) 3380, 3080, 2920, 2890, 2810, 1770, 1740, 1600, 1575, 1495, 1470, 1425, 1360, 1240, 1210, 1180, 1160, 1070, 1045, 755, and 700 cm−1; mass spectrum [EI], m/z 334 (M)+; Anal. Calcd. for C21H18O4.0.25H2O: C, 74.43; H, 5.50; N, 0.00, Found: C, 74.21; H, 5.49; N, 0.09.

reactant | (5′-methoxy-[ 1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester | COC(COC1=C(C=C(C=C1C1=CC=CC=C1)OC)C1=CC=CC=C1)=O | C22H20O4
reactant | KBr | [K+].[Br-]
product | (5′-Methoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid | COC=1C=C(C(=C(C1)C1=CC=CC=C1)OCC(=O)O)C1=CC=CC=C1 | C21H18O4
